US06974822B2
Step (2): 2-(3,4-difluorobenzyl)-7-(3-phenylprop-1-ynyl)-2H-5,8-diazaisoquinolin-3-one
The coupling of 7-bromo-2-(3,4-difluorobenzyl)-2H-5,8-diazaisoquinolin-3-one (0.80 g, 2.28 mmol) with 3-phenyl-1-propyne (0.71 mL, 5.74 mmol) using triethylamine (0.64 mL, 4.59 mmol), CuI (0.031 g, 0.16 mmol), and Pd(Ph3P)4 (0.106 g, 0.092 mmol) in dimethylformamide (6 mL) is carried out as described in Example 1, Step (2). The resulting red oil is evaporated onto silica gel and purified on a 3.5×20 cm silica gel column eluted with hexanes/ethyl acetate 3:1. The resulting red solid is triturated with ethyl ether and dried. This will afford the desired product.

reactant | 7-bromo-2-(3,4-difluorobenzyl)-2H-5,8-diazaisoquinolin-3-one | 2.28 mmol, 0.80 g | BrC=1C=NC2=CC(N(C=C2N1)CC1=CC(=C(C=C1)F)F)=O | C14H8BrF2N3O
reactant | 3-phenyl-1-propyne | 5.74 mmol, 0.71 mL | C1(=CC=CC=C1)CC#C | C9H8
reactant | triethylamine | 4.59 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | CuI | 0.16 mmol, 0.031 g | [Cu]I
catalyst | Pd(Ph3P)4 | 0.092 mmol, 0.106 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,4-difluorobenzyl)-7-(3-phenylprop-1-ynyl)-2H-5,8-diazaisoquinolin-3-one | FC=1C=C(CN2C=C3N=C(C=NC3=CC2=O)C#CCC2=CC=CC=C2)C=CC1F | C23H15F2N3O
